Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Tetanus Toxoid,Adsorbed / Tetracycline / Latex / Lamictal / 
Penicillin G / Depakote
 
Attending: ___
 
Chief Complaint:
altered mental status

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ yo RH F with h/o generalized epilepsy s/p 
VNS, HTN, DM who presents with altered mental status. She was 
brought in by EMS from home after being found altered, possibly 
postictal by a visting ___ nurse. EMS arrived, fingerstick was 
96, and no convulsions, urinary incontinence or tongue-biting 
was noted. On exam in the field she was slow to respond, 
lethargic, with slurred speech.

History is obtained from the patient's husband. He states that 
over the past ___ weeks the patient has had intermittent 
episodes of confusion, unsteadiness on her feet and appearing 
"zombie -like." These episodes have occured about once per week 
and generally last for some hours. Per the patients family, 
there have been no observed convulsive seizures. She has 
recently been seen at a number of different hospitals including 
___ and ___ records, the patient 
presented on ___ with chest pain. Acute coronary syndrome was 
ruled out and the patient was discharged to home. She was 
recently admitted to ___ for 3 days from ___ to ___ where she 
presented for headache, unsteady gait and falls. An EEG was 
reportedly unchanged from previous recordings (frequent 
frontally predominant poly spike wave discharges without 
clinical accompaniment). During that admission there was concern 
that the patient was inappropriately taking her medications at 
home. For this reason a home ___ was arranged and it was 
recommended that the patient's family keep her medications in a 
locked box, only to be administered by the ___. The ___ has been 
coming to the home, but it is unclear whether the medications 
have been locked away.

After discharge she was seen by Dr. ___ in the ___ 
___ Neurology clinic on ___. He noted that the 
patient has reported becoming increasingly depressed on her 
current regimen of rufinamide and clobazam (which the patient 
also corroborates today). He also notes that she has had 
numerous epileptologists in the past and has most recently been 
folllowed by ___ at ___. The patient's epilepsy 
history is obtained from his note:

"Her seizure history is as follows, her seizures began in ___
when approx. a year after gastric bypass surgery, she had a 
grand mal seizure while driving.  Since then she has had 
difficult to control seizures; including nonconvulsive status.
She has been seen by multiple specialists including experts
at ___, ___, ___ at ___ to ___, Dr. ___ at ___ between ___ and ___ and since then Dr. ___ at ___.  She has seen Dr. ___ at ___ within the
last several months.

She has been on multiple medications.  Best seizure control was
on Felbamate and lithium, which were prescribed by clinicians at
___, however, Felbamate was stopped after prolonged status 
several years ago ( ___ admission).

She has been tried on multiple medications for her seizures as
follows:  
1.  Lamotrigine caused "skin to peel off",ie suspected 
___  
2.  Keppra up to 1500 b.i.d.reportedly made her go crazy.  She 
became
suicidal.  
3.  Tegretol was ineffective.
4.  Zonisamide ineffective.
5.  Felbamate stopped seizures for 9 months, but was removed 
after
she presented in status ___ years ago.
5. Dilantin was briefly used to transition off of Keppra and 
seems
like she did not tolerate, but she does not remember this. 
6. Topamax takes currently for migraine.  
7. Depakote was helpful, but she does not want to go back on it 
due to weight gain.  ( h/o Gastric Bypass ___
8. Lacosamide in combination with Keppra and Vimpat.  
9.  Vagal nerve stimulator placed in ___ and she tells me 
was recently checked."

Dr. ___ was concerned about the patient's current AED regimen 
and also concerned for the possibility of subclinical seizure 
activity during the clinic visit. As a result he had begun to 
coordinate a planned LTM admission here at ___ for 
characterization of events and titration of medications. At that 
visit rufinamide was reduced from 600 BID to ___ and 
topiramate was increased to 100mg BID.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention.

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1.  Epilepsy s/p VNS (as per HPI)
2.  Bipolar Disorder with possible non-epileptic events as well
3.  Migraines
4.  Depression, Anxiety
5.  HTN
6.  h/o DM, s/p bariatric surgery, now diet-controlled
7.  Hypothyroidism
8.  chronic neuropathy
9.  GERD
10. prior inpatient psych admit for suicidal ideation in ___
11. hx of single febrile seizure as a child

 
Social History:
___
Family History:
No family  history of seizures or migraines. 
Hypertension and hypercholesterolemia.

 
Physical Exam:
ON ADMISSION:
Physical Exam:
Vitals: T: 97.6 HR- 62 BP- 118/60 RR- 14 97% RA 
GEN: somnolent, arousable
HEENT: NC/AT, anicteric, MMM, no lesions noted in oropharynx
NECK: Supple, no carotid bruits.
RESP: CTAB no w/r/r
CV: RRR, no m/r/g
ABD: soft, NT/ND, normoactive bowel sounds
EXT: No edema, no cyanosis
SKIN: no rashes or lesions noted.

NEURO EXAM:
MS:
somnolent, arousable, oriented only to self.
Unable to related details of history
Inattentive
Language is fluent with intact comprehension.
Normal prosody.
There were no paraphasic errors.
Speech was not dysarthric.
Able to follow both midline and appendicular commands.
No evidence of apraxia or neglect.

CN:
II:
PERRLA 3 to 2mm and brisk.
VFF to confrontation.
III, IV, VI: EOMI, no nystagmus. Normal saccades.
V: Sensation intact to LT.
VII: Facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate rise symmetric.
XI: Trapezius and SCM ___ bilaterally.
XII: Tongue protrudes midline.

Motor:
Normal bulk, tone throughout. No pronator drift bilaterally.
No adventitious movements. No asterixis.
Moves all extremities equally with good strength against 
gravity. BUE strength is ___ throughout, does not cooperate with 
confrontation exam of BLE.

Sensory: No deficits to light touch

Reflexes:
  ___ Tri ___ Pat Ach
L  ___     2   2
R  ___     2   2
Toes downgoing bilaterally

Coordination:
No intention tremor, no dysdiadochokinesia noted. No dysmetria 
on FNF.

ON DISCHARGE:
Her exam was largely unchanged from prior except she was alert 
and no longer somnolent. 
 
Pertinent Results:
Labs:
___ 06:15AM   GLUCOSE-112* UREA N-15 CREAT-0.8 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-111* TOTAL CO2-23 ANION GAP-10
___ 06:15AM   CALCIUM-8.3* PHOSPHATE-3.1 MAGNESIUM-2.1
___ 06:15AM   TSH-2.3
___ 06:15AM   WBC-6.0 RBC-3.96* HGB-12.5 HCT-38.1 MCV-96 
MCH-31.5 MCHC-32.7 RDW-13.5
___ 06:15AM   PLT COUNT-166
___ 09:10PM CEREBROSPINAL FLUID (CSF)  PROTEIN-42 
GLUCOSE-61
___ 09:10PM CEREBROSPINAL FLUID (CSF)  WBC-0 RBC-0 POLYS-0 
___ ___ 06:15PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 06:15PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:09PM   LACTATE-0.9
___ 05:20PM   GLUCOSE-92 UREA N-16 CREAT-0.9 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-111* TOTAL CO2-24 ANION GAP-12
___ 05:20PM   ALT(SGPT)-31 AST(SGOT)-27 ALK PHOS-53 TOT 
BILI-0.3
___ 05:20PM   LIPASE-28
___ 05:20PM   ALBUMIN-4.0
___ 05:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-POS barbitrt-NEG tricyclic-NEG
___ 05:20PM   WBC-5.3 RBC-4.27 HGB-13.4 HCT-40.4 MCV-95 
MCH-31.3 MCHC-33.1 RDW-13.2
___ 05:20PM   NEUTS-46.2* LYMPHS-45.3* MONOS-5.1 EOS-2.9 
BASOS-0.4
___ 05:20PM   PLT COUNT-174

Imaging:
CXR ___: No acute intrathoracic process

CT C-spine ___: No acute fracture or traumatic malalignment

CT Head ___: No acute intracranial process

EEG ___:
Abnormal extended routine EEG because of frequent short bursts 
of 
bursts of bifrontally-predominant generalized spikes, 
polyspikes, and spike-wave discharges, consistent with 
generalized cortical irritability seen in a generalized epilepsy 
syndrome. Excess low-voltage beta activity is likely a 
medication (clobazam) side effect. There were no electrographic 
seizures. 

 
Brief Hospital Course:
___ is a ___ year old right handed woman with a history 
of generalized epilepsy s/p VNS, HTN, and DM who presented with 
altered mental status concerning for medication overuse. 

# Altered Mental Status: Medication overuse in combination with 
chronic neurological problems is likely the etiology. Seizures 
were unlikely because this would represent a new seizure 
semiology for the patient and her EEG was similar to baseline. 
She has a history of medication overuse/toxicity. There was an 
incident while inpatient where the nurse found her somnolent 
with an (unprescribed) pill on her chest that looked identical 
to the gabapentin pills found in her belongings. Her belongings 
were searched and pills were removed from her possession until 
discharge. Her mental status improved. She was seen by 
psychiatry and did not meet ___ criteria. She was 
discharged to continue ___ services for medication 
administration at home. Her outpatient providers can follow up 
her medication level checks which were pending at the time of 
discharge. 

# Seizure Disorder: Has a history of generalized tonic clonic 
and absence seizures and has seen multiple neurologists. She 
continued Clobazam ___ and topamax. Her Rufinamide dose was 
reduced to 400 BID to decrease sleepiness. 

# Headache: Continued topamax at 100mg BID and gave Ibuprofen 
and Tylenol prn for headache.

# Depression: Continued fluoxetine and seroquel

# Hypothyroidism: continued levothyroxine

TRANSITIONAL ISSUES:
- Contact: husband ___ ___
- follow up medication levels

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sumatriptan Succinate 50 mg PO PRN migraine 
2. Rufinamide 400 mg PO QAM 
3. Rufinamide 600 mg PO QPM 
4. Acetaminophen 650 mg PO Q6H:PRN pain 
5. Vitamin D 800 UNIT PO DAILY 
6. QUEtiapine Fumarate 25 mg PO BID:PRN mood 
7. QUEtiapine Fumarate 50 mg PO QHS 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. Clobazam 15 mg PO QPM 
10. Clobazam 10 mg PO QAM 
11. Levothyroxine Sodium 50 mcg PO QAM 
12. Fluoxetine 40 mg PO DAILY 
13. Topiramate (Topamax) 100 mg PO BID 
14. Ascorbic Acid ___ mg PO QAM 
15. Ferrous Sulfate 325 mg PO BID 
16. Magnesium Oxide 400 mg PO QAM 
17. Multivitamins 1 TAB PO DAILY 
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Clobazam 15 mg PO QPM 
3. Clobazam 10 mg PO QAM 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Fluoxetine 40 mg PO DAILY 
6. Levothyroxine Sodium 50 mcg PO QAM 
7. QUEtiapine Fumarate 50 mg PO QHS 
8. Rufinamide 400 mg PO BID 
RX *rufinamide [Banzel] 400 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
9. Sumatriptan Succinate 50 mg PO PRN migraine 
10. Topiramate (Topamax) 100 mg PO BID 
11. Vitamin D 800 UNIT PO DAILY 
12. Ascorbic Acid ___ mg PO QAM 
13. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit oral BID 
14. Ferrous Sulfate 325 mg PO BID 
15. Magnesium Oxide 400 mg PO QAM 
16. Multivitamins 1 TAB PO DAILY 
17. Ondansetron 4 mg PO Q8H:PRN nausea 
18. QUEtiapine Fumarate 25 mg PO BID:PRN mood 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Toxic Metabolic Encephalopathy
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were hospitalized after being found extra sleepy and 
confused at home. We monitored you in the hospital with EEG. 
Your EEG in the hospital is consistent with your baseline EEG 
without any new seizure activity to explain your confusion. You 
are on multiple sedating medications and it is possible that a 
medication side effect contributed to your confusion at home. 
Your Rufinamide dose has been decreased and your visiting nurse 
should continue to help you with your medications.
 
Followup Instructions:
___